US04609670
A solution of 4.6 g (0.02 mol) of α-bromoisobutyrophenone and 1.8 g (0.022 mol) of 1-methylimidazole in 30 ml of diethyl ether was stirred at room temperature for approximately 48 hours. The solvent was decanted and the resulting oil was slurried in ethyl acetate. The solvent was again decanted and the residue was dissolved in acetonitrile prior to adding a small portion of ethyl acetate. A white precipitate was collected by filtration and recrystallized from methanol/ethyl acetate to afford 3.88 g of 1-methyl-3-(1,1-dimethyl-2-phenyl-2-oxoethyl)-1H-imidazolium bromide as glittering white flakes. (63% yield) mp=137°-140° C.

reactant | α-bromoisobutyrophenone | 0.02 mol, 4.6 g | BrC(C(=O)C1=CC=CC=C1)(C)C | C10H11BrO
reactant | 1-methylimidazole | 0.022 mol, 1.8 g | CN1C=NC=C1 | C4H6N2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1-methyl-3-(1,1-dimethyl-2-phenyl-2-oxoethyl)-1H-imidazolium bromide | 3.88 g, 63% yield | [Br-].C[NH+]1CN(C=C1)C(C(=O)C1=CC=CC=C1)(C)C | InChI=1S/C14H18N2O.BrH/c1-14(2,16-10-9-15(3)11-16)13(17)12-7-5-4-6-8-12;/h4-10H,11H2,1-3H3;1H
